US04081488
A mixture of 33.4 gm (0.18 mole) of 1,1-dichloro-4-methyl-1-penten-3-one, 40.9 gm (0.20 mole) of aluminum isopropoxide, and 200 ml of isopropanol was heated at reflux for 2 hours. The by-product, acetone, was distilled periodically from the reaction mixture by alternating between reflux and distillation. When the vapor temperature of the distillate reached 82°, the heating was stopped. To the reaction mixture was then added a cold solution of 70 ml of concentrated hydrochloric acid in 350 ml of water. The aqueous mixture was extracted several times with carbon tetrachloride. The combined extracts were dried over magnesium sulfate and filtered. The carbon tetrachloride was evaporated, and the residue was distilled to give 24.9 gm (82% yield) of 1,1-dichloro-3-hydroxy-4-methyl-1-pentene; b.p., 72°/5mm.

reactant | 1,1-dichloro-4-methyl-1-penten-3-one | 0.18 mole, 33.4 gm | ClC(=CC(C(C)C)=O)Cl | C6H8Cl2O
reactant | aluminum isopropoxide | 0.20 mole, 40.9 gm | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1,1-dichloro-3-hydroxy-4-methyl-1-pentene | 24.9 gm, 82% yield | ClC(=CC(C(C)C)O)Cl | C6H10Cl2O
